*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA250ARA100MF61G
*//   Date        : 2020/12/24
*//   Update      : 2023/09/19 Change MPN case code
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA250ARA100MF61G_20deg-C 1 2

C1 4 2 6.38e-06
C2 5 2 1.57e-06
C3 6 2 8.53e-07
R1 3 4 2.62e-02
R2 4 5 6.32e-01
R3 5 6 9.59e+00
L1 1 3 2.80e-09

.ENDS
